US07132504B2
Preparation of 1-{[1-(2-Methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid
To a solution of 1-{[1-(2-methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropane-carboxylic acid ethyl ester (410 mg, 0. 52 mmol) in THF (20 mL), methanol (11.5 mL) and water (3.8 mL) mixture, lithium hydroxide monohydrate (328 mg, 7.82 mmol) was added. The reaction mixture was stirred at rt for overnight. Then it was acidified with 1N HCl solution and concentrated. The residue was extracted with EtOAc twice and the organic layers were combined. Then it was dried (MgSO4) and concentrated to give an off-white solid. (230 mg, 69% yield). 1H NMR (400 MHz, CD3OD) δ 1.02 (s, 9H), 1.43 (dd, J=9.54, 5.14 Hz, 1H), 1.68 (dd, J=8.07, 5.14 Hz, 1H), 2.17 (m, 1H), 2.57 (m, 1H), 2.75 (m, 1H), 3.34 (s, 3H), 4.03 (s, 3H), 4.06 (m, 1H), 4.18 (s, 1H), 4.60–4.70 (m, 2H), 4.88 (m, 1H), 5.08 (dd, J=10.39, 1.59 Hz, 1H), 5.25 (dd, J=17.36, 1.71 Hz, 1H), 5.77–5.87 (m, 2H) 7.38 (dd, J=9.29, 2.20 Hz, 1H), 7.50 (m, 1H), 7.62 (m, 1H), 7.69–7.78 (m, 3H), 8.03–8.07 (m, 2H), 8.36 (d, J=9.20 Hz, 1H). LC-MS (retention time: 2.177 min.), MS m/z 645 (MH+).

reactant | 1-{[1-(2-methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropane-carboxylic acid ethyl ester | 52 mmol, 410 mg | C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1N(CC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)C(C(C(C)(C)C)NC(=O)OC)=O | C37H44N4O8
reactant | lithium hydroxide monohydrate | 7.82 mmol, 328 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 11.5 mL | CO | CH4O
solvent | water | 3.8 mL | O | H2O
product | 1-{[1-(2-Methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid | 69% yield | COC(=O)NC(C(=O)N1C(CC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)C(=O)NC1(C(C1)C=C)C(=O)O)C(C)(C)C | C35H40N4O8
